US08217066B2
Step 1: 1-{4′-[4-(3-Hydroxy-propyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
1-{4′-[4-(2-Carboxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.336 g, 0.8 mmol) and triethylamine (0.145 mL, 1.04 mmol) were dissolved in THF (6.6 mL) under N2 atmosphere and cooled to 0° C. Isobutyl chloroformate (0.126 mL, 0.96 mmol) was added and the reaction stirred for 40 minutes and was then filtered, rinsing with dioxane and THF, and the filtrate was collected and concentrated. The crude material was dissolved in THF (10 mL), H2O (4.4 mL), and EtOH (1.9 mL), and then sodium borohydride (0.176 g, 4.6 mmol) was added. The reaction was heated to 50° C. for five hours then cooled and submitted to standard aqueous workup. The residue was purified on silica gel (0-80% EtOAc in hexanes) to yield the title compound.

reactant | 1-{4′-[4-(2-Carboxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.8 mmol, 0.336 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCC(=O)O | C25H25NO5
reactant | triethylamine | 1.04 mmol, 0.145 mL | C(C)N(CC)CC | C6H15N
reactant | Isobutyl chloroformate | 0.96 mmol, 0.126 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 4.6 mmol, 0.176 g | [BH4-].[Na+]
solvent | THF | 6.6 mL | C1CCOC1 | C4H8O
solvent | EtOH | 1.9 mL | CCO | C2H6O
solvent | H2O | 4.4 mL | O | H2O
product | 1-{4′-[4-(3-Hydroxy-propyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCCO | C25H27NO4
